US09351974B2
Step a: Methyl 2-methyl-N-(3-methylbutyl)alaninate
A suspension of methyl 2-methylalaninate hydrochloride (6.9 g, 45 mmol) in dry dichloromethane (180 mL) was treated with potassium acetate (4.4 g, 45 mmol) and the reaction mixture stirred for ten minutes. The reaction mixture was then cooled to 10° C. and treated with 3-methylbutanal (4.8 g, 56 mmol). This was followed by the addition of sodium triacetoxyborohydride (11.91 g, 56 mmol) in portions over a period of ten minutes. Reaction mixture was stirred at room temperature for 16 h. Then saturated aqueous sodium bicarbonate solution was added to the reaction and resulting mixture was stirred for another 30 minutes. The reaction mixture was further basified with aqueous sodium carbonate to pH=˜10. Dichloromethane layer was separated and the aqueous layer extracted with dichloromethane (3×50 mL). Organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, and evaporated to give titled product as colorless oil which was used as such for the next step. 1HNMR (300 MHz, CDCl3): δ 0.95 (s, 3H), 0.96 (s, 3H), 1.25-1.35 (m, 7H), 1.55-1.65 (m, 1H), 1.80 (s, 1H), 2.40-2.48 (m, 2H), 3.63 (s, 3H).

reactant | methyl 2-methylalaninate hydrochloride | 45 mmol, 6.9 g | Cl.CC(N)(C)C(=O)OC
reactant | potassium acetate | 45 mmol, 4.4 g | C(C)(=O)[O-].[K+]
reactant | 3-methylbutanal | 56 mmol, 4.8 g | CC(CC=O)C | C5H10O
reactant | sodium triacetoxyborohydride | 56 mmol, 11.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | Methyl 2-methyl-N-(3-methylbutyl)alaninate | CC(NCCC(C)C)(C)C(=O)OC | C10H21NO2
